US08859573B2
5-{[(2-Chloro-4-pyrimidinyl)amino]methyl}-2-{[4-Chloro-3-(trifluoromethyl)phenyl]oxy}benzonitrile
A solution of 5-(aminomethyl)-2-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}benzonitrile (500 mg, 1.530 mmol), 2,4-dichloropyrimidine (239 mg, 1.607 mmol) and TEA (1.280 mL, 9.18 mmol) in the N,N-dimethylformamide (5 mL) was stirred at rt overnight. Purification via Biotage-C18 system afforded the title product (480 mg) as a white solid. LC-MS (ESI): m/z 439 [M+H]+; 3.56 min (ret time).

reactant | 5-(aminomethyl)-2-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}benzonitrile | 1.530 mmol, 500 mg | NCC=1C=CC(=C(C#N)C1)OC1=CC(=C(C=C1)Cl)C(F)(F)F | C15H10ClF3N2O
reactant | 2,4-dichloropyrimidine | 1.607 mmol, 239 mg | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 5-{[(2-Chloro-4-pyrimidinyl)amino]methyl}-2-{[4-Chloro-3-(trifluoromethyl)phenyl]oxy}benzonitrile | 480 mg | ClC1=NC=CC(=N1)NCC=1C=CC(=C(C#N)C1)OC1=CC(=C(C=C1)Cl)C(F)(F)F | C19H11Cl2F3N4O
